US06593350B2
8-Ethyl-2-[(4-(5-fluoro-1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl ]-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indole
A solution of 0.41 g (0.1.1 mmole) of [(2R)-8-ethyl-2,3-dihydro-7H-[1,4]-dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonate and 0.71 g (3.3 mmole) of 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole in 25 mL of DMSO were heated at 75-80° C. for 4 hours. The mixture was diluted with 300 mL of ethyl acetate, washed with 200 ml portions of saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on silica gel with 0-2% methanol in methylene chloride as eluant. The product fractions were combined and concentrated in vacuum, and the residue triturated with ether/hexane (1:1) to give 0.090 g of the (S)-enantiomer of the title compound as a yellow solid hydrate, m.p. 81-82° C.

reactant | [(2R)-8-ethyl-2,3-dihydro-7H-[1,4]-dioxino[2,3-e]indol-2-yl]methyl 4-methylbenzenesulfonate | 0.41 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=C(NC3=CC2)CC)O1 | C20H21NO5S
reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 3.3 mmole, 0.71 g | FC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13FN2
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 8-Ethyl-2-[(4-(5-fluoro-1H-indol-3-yl)-3,6-dihydropyridin-1(2H)-yl)methyl ]-2,3-dihydro-7H-[1,4]dioxino[2,3-e]indole | C(C)C=1NC2=CC=C3C(=C2C1)OC(CO3)CN3CCC(=CC3)C3=CNC1=CC=C(C=C31)F | C26H26FN3O2
